US08034812B2
Production of N-(6-{4-methyl-3-[(3-methylbut-2-enoyl)amino]phenoxy}imidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide
Using N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.62 mmol), N,N-dimethylacetamide (2.0 mL) and 3,3-dimethylacryloyl chloride (83 μL, 0.74 mmol), and in the same manner as in Example 120, the title compound (142 mg, 57%) was obtained as a white powder.

reactant | N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.62 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
reactant | 3,3-dimethylacryloyl chloride | 0.74 mmol, 83 μL | CC(=CC(=O)Cl)C | C5H7ClO
solvent | N,N-dimethylacetamide | 2.0 mL | CN(C(C)=O)C | C4H9NO
product | N-(6-{4-methyl-3-[(3-methylbut-2-enoyl)amino]phenoxy}imidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 142 mg, 57% | CC1=C(C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=C1)NC(C=C(C)C)=O | C22H23N5O3
